*
*$
* Library of Vishay PTS RTD’s for LT spice 4
*
*
* $Revision:   1.1  $
* $Author:   Alain Stas  $
* $Date:   25 May 2016 $
* $Revision History :
*---------------------------------------------------------------
*
* Vishay NTC Thermistors included in this file : PTS
* DESCRIPTION: surface mount Platinum thin film RTD’s
* For power rating and temperature range limitations, see
* PTS : http://www.vishay.com/docs/28762/ptsserie.pdf
* PTS AT: http://www.vishay.com/docs/28899/ptsat.pdf
*
* the model is applicable for transient and steady state conditions under bias including self heating.
*
*
.SUBCKT PTS_BASE Rn Rp PARAMS:  cth=1 r0=1 gth=1 a=1 b=1 c=1 F1=0 F2=0
R2 t0 0 {mc(1,F1)}
R3 tS 0 {mc(1,F2)}
I1 t0 0 -1
I2 tS 0 -1
G_G5         RP RN VALUE { V(RP, RN)/V(AOUT) }
R_R1         0 AOUT  10T TC=0,0
G_G6         H 0 VALUE { +V(H)*Gth }
R_R2         0 H  1T TC=0,0
G_G2         AOUT 0 VALUE { IF(TEMP>0,0,V(AOUT,
+  0)/(R0*(1+(abs(V(H))+V(DT)+TEMP)*(A+(abs(V(H))+V(DT)+TEMP)*(B+C*(abs(V(H))+V(DT)+TEMP-100)*(abs(V(H))+V(DT)+TEMP))))))
+  }
G_G1         AOUT 0 VALUE { if(TEMP>0,V(AOUT,
+  0)/(R0*(1+(abs(V(H))+V(DT)+TEMP)*(A+B*(abs(V(H))+V(DT)+TEMP)))),0) }
R_R4         0 DT  1 TC=0,0
G_G4         H 0 VALUE {
+  if(TEMP>0,0,-V(RP,RN)*V(RP,RN)/(R0*(1+(abs(V(H))+TEMP)*(A+(abs(V(H))+TEMP)*(B+C*((abs(V(H))+TEMP)-100)*(abs(V(H))+TEMP))))))
+  }
I_I1         0 AOUT DC 1Adc
G_G3         H 0 VALUE {
+  if(TEMP>0,-V(RP,RN)*V(RP,RN)/(R0*(1+(abs(V(H))+TEMP)*(A+B*(abs(V(H))+TEMP)))),0)
+  }
C_C1         0 H  {+0.25* Cth }
C_C2         0 J  {0.75 * Cth}
R_R10        J H 700 TC=0,0
G_G7         DT 0 VALUE { -(V(T0)-1) - (V(tS)-1) *abs(V(H)+TEMP) }
.IC V(H)=0
.ENDS
*$
.SUBCKT PTS12060__1K00 Rn Rp PARAMS: TOL0= 0  TOLS = 0
X1 Rn Rp PTS_BASE Params:
+ cth=0.25
+ r0=1000
+ gth=0.00581
+ a=0.0039083
+ b=-0.0000005775
+ c=-0.000000000004183
+ F1= {TOL0}
+ F2= {TOLS}
.ENDS
*$
.SUBCKT PTS12060__500R Rn Rp PARAMS: TOL0= 0  TOLS = 0
X4 Rn Rp PTS_BASE Params:
+ cth=0.25
+ r0=500
+ gth=0.00581
+ a=0.0039083
+ b=-0.0000005775
+ c=-0.000000000004183
+ F1= {TOL0}
+ F2= {TOLS}
.ENDS
*$
.SUBCKT PTS08050__500R Rn Rp PARAMS: TOL0= 0  TOLS = 0
X5 Rn Rp PTS_BASE Params:
+ cth=0.1
+ r0=500
+ gth=0.0046
+ a=0.0039083
+ b=-0.0000005775
+ c=-0.000000000004183
+ F1= {TOL0}
+ F2= {TOLS}
.ENDS
*$
.SUBCKT PTS12060__100R Rn Rp PARAMS: TOL0= 0  TOLS = 0
X7 Rn Rp PTS_BASE Params:
+ cth=0.25
+ r0=100
+ gth=0.00581
+ a=0.0039083
+ b=-0.0000005775
+ c=-0.000000000004183
+ F1= {TOL0}
+ F2= {TOLS}
.ENDS
*$
.SUBCKT PTS08050__100R Rn Rp PARAMS: TOL0= 0  TOLS = 0
X8 Rn Rp PTS_BASE Params:
+ cth=0.1
+ r0=100
+ gth=0.0046
+ a=0.0039083
+ b=-0.0000005775
+ c=-0.000000000004183
+ F1= {TOL0}
+ F2= {TOLS}
.ENDS
*$
.SUBCKT PTS06030__100R Rn Rp PARAMS: TOL0= 0  TOLS = 0
X9 Rn Rp PTS_BASE Params:
+ cth=0.025
+ r0=100
+ gth=0.00314
+ a=0.0039083
+ b=-0.0000005775
+ c=-0.000000000004183
+ F1= {TOL0}
+ F2= {TOLS}
.ENDS
