* Vishay NTC Thermistors included in this file : TFPT
* DESCRIPTION: surface mount Nickel thin film RTD’s
* For power rating and temperature range limitations, see
* TFPT : www.vishay.com/docs/33017/tfpt.pdf
* the model is applicable for transient and steady state conditions under bias including self heating.
* version 2 30 nov 2016: tolerance on V(T) modified with B1
.SUBCKT TFPT_BASE RN RP PARAMs:  cth=0 gth=0 a=0 b=0  c=0
+  d=0 r25=0  dR25=0 dslope = 0
R_R6         0 AOUT  10T TC=0,0
R_R4         0 FTEMP  1 TC=0,0
B1         T 0  V=(1+(V(dRslo)+1)*dslope*V(tolslop)/100)*V(dRef)
G_G8         H 0 VALUE { -(V(RP,RN))*(V(RP,RN))/(R25*V(T)*(A+
+  (TEMP+abs(V(H)))*(B+(TEMP+abs(V(H)))*(C+(TEMP+abs(V(H)))*D)))) }
G_G6         AOUT 0 VALUE { V(AOUT, 0)/(R25*V(T)*(A+
+  (TEMP+abs(V(H)))*(B+(TEMP+abs(V(H)))*(C+(TEMP+abs(V(H)))*D)))) }
I_I1         0 AOUT DC 1Adc
R_R2         0 H  1T TC=0,0
R_R7         0 T  1 TC=0,0
R_R31        0 dRef {mc(1,DR25/100)}
I_I31        0 dRef 1
R_R32        0 dRslo {mc(1.001,1)}
I_I32        0 dRslo -1
G_G1         TOLSLOP 0 TABLE { V(FTEMP, 0) }
+ (
+  (-55,4)(-40,3)(-20,2)(0,1)(12,0.5)(25,0)(40,-0.5)(55,-1)(85,-2)(125,-3)(150,-4)
+  )
G_G11         RP RN VALUE { V(RP, RN)/V(AOUT) }
G_G2         FTEMP 0 VALUE { -TEMP }
G_G10         H 0 VALUE { V(H)*Gth }
C_C1         0 H  { 0.25 * Cth} IC=0 TC=0,0
C_C2         0 J  {0.75 * Cth} IC=0 TC=0,0
R_R10        J H 1000 TC=0,0
R_R3         0 TOLSLOP  1 TC=0,0
.ENDS
*$
.SUBCKT TFPT1206L1002 RN RP PARAMS: TOL25=0 TOLslope=0
x1 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =10000
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L8201 RN RP PARAMS: TOL25=0 TOLslope=0
x2 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =8200
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L6801 RN RP PARAMS: TOL25=0 TOLslope=0
x3 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =6800
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L5601 RN RP PARAMS: TOL25=0 TOLslope=0
x4 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =5600
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L5001 RN RP PARAMS: TOL25=0 TOLslope=0
x5 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =5000
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L4701 RN RP PARAMS: TOL25=0 TOLslope=0
x6 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =4700
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L3901 RN RP PARAMS: TOL25=0 TOLslope=0
x7 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =3900
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L3301 RN RP PARAMS: TOL25=0 TOLslope=0
x8 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =3300
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L2701 RN RP PARAMS: TOL25=0 TOLslope=0
x9 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =2700
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L2201 RN RP PARAMS: TOL25=0 TOLslope=0
x10 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =2200
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1801 RN RP PARAMS: TOL25=0 TOLslope=0
x11 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1800
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1501 RN RP PARAMS: TOL25=0 TOLslope=0
x12 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1500
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1201 RN RP PARAMS: TOL25=0 TOLslope=0
x13 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1200
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1001 RN RP PARAMS: TOL25=0 TOLslope=0
x14 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1000
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L8200 RN RP PARAMS: TOL25=0 TOLslope=0
x15 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =820
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L6800 RN RP PARAMS: TOL25=0 TOLslope=0
x16 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =680
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L5600 RN RP PARAMS: TOL25=0 TOLslope=0
x17 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =560
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L4700 RN RP PARAMS: TOL25=0 TOLslope=0
x18 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =470
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L3900 RN RP PARAMS: TOL25=0 TOLslope=0
x19 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =390
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L3300 RN RP PARAMS: TOL25=0 TOLslope=0
x20 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =330
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L2700 RN RP PARAMS: TOL25=0 TOLslope=0
x21 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =270
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L2200 RN RP PARAMS: TOL25=0 TOLslope=0
x22 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =220
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1800 RN RP PARAMS: TOL25=0 TOLslope=0
x23 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =180
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1500 RN RP PARAMS: TOL25=0 TOLslope=0
x24 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =150
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1200 RN RP PARAMS: TOL25=0 TOLslope=0
x25 Rn Rp TFPT_BASE Params:
+ cth  =0.45
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =120
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT1206L1000 RN RP PARAMS: TOL25=0 TOLslope=0
x26 Rn Rp TFPT_BASE Params:
+ cth  =0.4
+ gth =0.0055
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =100
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L5001 RN RP PARAMS: TOL25=0 TOLslope=0
x27 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =5000
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L4701 RN RP PARAMS: TOL25=0 TOLslope=0
x28 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =4700
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L3901 RN RP PARAMS: TOL25=0 TOLslope=0
x29 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =3900
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L3301 RN RP PARAMS: TOL25=0 TOLslope=0
x30 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =3300
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L2701 RN RP PARAMS: TOL25=0 TOLslope=0
x31 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =2700
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L2201 RN RP PARAMS: TOL25=0 TOLslope=0
x32 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =2200
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1801 RN RP PARAMS: TOL25=0 TOLslope=0
x33 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1800
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1501 RN RP PARAMS: TOL25=0 TOLslope=0
x34 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1500
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1201 RN RP PARAMS: TOL25=0 TOLslope=0
x35 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1200
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1001 RN RP PARAMS: TOL25=0 TOLslope=0
x36 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1000
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L8200 RN RP PARAMS: TOL25=0 TOLslope=0
x37 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =820
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L6800 RN RP PARAMS: TOL25=0 TOLslope=0
x38 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =680
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L5600 RN RP PARAMS: TOL25=0 TOLslope=0
x39 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =560
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L4700 RN RP PARAMS: TOL25=0 TOLslope=0
x40 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =470
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L3900 RN RP PARAMS: TOL25=0 TOLslope=0
x41 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =390
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L3300 RN RP PARAMS: TOL25=0 TOLslope=0
x42 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =330
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L2700 RN RP PARAMS: TOL25=0 TOLslope=0
x43 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =270
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L2200 RN RP PARAMS: TOL25=0 TOLslope=0
x44 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =220
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1800 RN RP PARAMS: TOL25=0 TOLslope=0
x45 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =180
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1500 RN RP PARAMS: TOL25=0 TOLslope=0
x46 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =150
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1200 RN RP PARAMS: TOL25=0 TOLslope=0
x47 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =120
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0805L1000 RN RP PARAMS: TOL25=0 TOLslope=0
x48 Rn Rp TFPT_BASE Params:
+ cth  =0.2
+ gth =0.00445
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =100
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L1001 RN RP PARAMS: TOL25=0 TOLslope=0
x49 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =1000
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L8200 RN RP PARAMS: TOL25=0 TOLslope=0
x50 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =820
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L6800 RN RP PARAMS: TOL25=0 TOLslope=0
x51 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =680
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L5600 RN RP PARAMS: TOL25=0 TOLslope=0
x52 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =560
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L4700 RN RP PARAMS: TOL25=0 TOLslope=0
x53 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =470
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L3900 RN RP PARAMS: TOL25=0 TOLslope=0
x54 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =390
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L3300 RN RP PARAMS: TOL25=0 TOLslope=0
x55 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =330
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L2700 RN RP PARAMS: TOL25=0 TOLslope=0
x56 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =270
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L2200 RN RP PARAMS: TOL25=0 TOLslope=0
x57 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =220
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L1800 RN RP PARAMS: TOL25=0 TOLslope=0
x58 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =180
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L1500 RN RP PARAMS: TOL25=0 TOLslope=0
x59 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =150
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L1200 RN RP PARAMS: TOL25=0 TOLslope=0
x60 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =120
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
.SUBCKT TFPT0603L1000 RN RP PARAMS: TOL25=0 TOLslope=0
x61 Rn Rp TFPT_BASE Params:
+ cth  =0.04
+ gth =0.0031
+ a =0.90014
+ b =0.00387235
+ c =0.00000486825
+ d =0.00000000137559
+ r25 =100
+ dR25={TOL25}
+ dslope={TOLslope}
.ENDS
*$
